* Copyright Tammo Heeren 02/2005
*
.subckt simplesparkgap P1 P2
S1 N003 N002 N002 P2 SW1
W1 N002 N003 V1 SW2
V1 N001 N002 0
R1 N002 P2 {Roff}
R2 N003 P2 {Ron}
W2 N002 N003 V2 SW2
V2 N001 P1 0
S2 N002 N003 P2 N002 SW1
.model SW1 SW(Ron=1m Roff=100Meg Vt={Vbd} Vh={-Vbd*0.05})
.model SW2 CSW(Ron=1m Roff=100Meg It={Isus} Ih={-Isus*0.05})
.param Vbd=100 Von=0 Roff=10Meg Ron=1
.ends simplesparkgap
